US06153757
To a 25° C. solution of 3(S)-N-(tert-butyldiphenylsilyl)oxy-4-(4-(4-(furan-3-yl)phenoxy)benzenesulfonyl-tetrahydro-2H-1,4-thiazine-3-carboxamide (35 mg) in 2 mL of THF was added 0.060 mL of 2M tetrabutylammonium fluoride in THF. After 30 minutes, the solution was partitioned between 1 M pH 7 phosphate buffer and ethyl acetate. The aqueous layer was extracted once with ethyl aceate, and the combined organic layers were washed with brine, dried over sodium sulfate, and concentrated. The residue was triturated with hexane and the resulting solid was collected by filtration to yield 3(S)-4-(4-(4-(furan-3-yl)phenoxy)benzenesulfonyl-N-hydroxy-tetrahydro-2H-1,4-thiazine-3-carboxamide (22 mg). 1H NMR (CDCl3): δ9.69 (bs, 1H), 7.24 (d, 2H, J=8.82 Hz), 7.51 (d, 2H, J=8.46 Hz), 7.05 (t, 4H, J=9.37 Hz), 6.69 (s, 1H), 4.57 (s, 1H), 4.02 (d, 1H, J=12.5 Hz), 3.28-3.12 (m, 2H), 2.50 (d, 1H, J=12.87 Hz), 1.61 (s, 3H), 1.31 (s, 3H).

reactant | 4-(4-(furan-3-yl)phenoxy)benzenesulfonyl-tetrahydro-2H-1,4-thiazine-3-carboxamide | 35 mg | O1C=C(C=C1)C1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)C2SCCNC2C(=O)N)C=C1 | C21H20N2O5S2
reactant | tetrabutylammonium fluoride | 2M, 0.060 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(4-(furan-3-yl)phenoxy)benzenesulfonyl-N-hydroxy-tetrahydro-2H-1,4-thiazine-3-carboxamide | 22 mg | O1C=C(C=C1)C1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)C2SCCNC2C(=O)NO)C=C1 | C21H20N2O6S2
